US08138175B2
1-(3,4-Dichloro-phenyl)-4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-[1,4]diazepan-5-one
A solution of 0.180 g (0.37 mmol) of (S)-2-[4-(3,4-dichloro-phenyl)-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester in 4 ml of ETOH was treated at 0° C. with 0.017 g (0.74 mmol) of LiBH4. The reaction was stirred 10 min at 0° C. and 22 h at RT, cooled (0° C.) and treated with 0.009 g (0.37 mmol) of LiBH4 and after 5 h again cooled (0° C.) and treated with 0.009 g (0.37 mmol) of LiBH4. After 1 h at RT, the reaction was cooled (0° C.), acidified with 10% aq. KHSO4 solution and then basified with sat. aq NaHCO3 solution and extracted with EtOAc (3×). The organic phases were washed with aq. 10% NaCl solution, dried over Na2SO4 evaporated and purified by flash silica gel column (CH2Cl2:MeOH 95:5 to 9:1) to yield 0.127 g (75%) of the title compound as white foam. MS: 456.2 (MH+, 2Cl).

reactant | (S)-2-[4-(3,4-dichloro-phenyl)-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester | 0.37 mmol, 0.180 g | COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1CCN(CCC1=O)C1=CC(=C(C=C1)Cl)Cl)=O | C23H31Cl2N3O4
reactant | LiBH4 | 0.74 mmol, 0.017 g | [Li+].[BH4-]
reactant | LiBH4 | 0.37 mmol, 0.009 g | [Li+].[BH4-]
reactant | LiBH4 | 0.37 mmol, 0.009 g | [Li+].[BH4-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-(3,4-Dichloro-phenyl)-4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-[1,4]diazepan-5-one | 0.127 g, 75% | ClC=1C=C(C=CC1Cl)N1CCN(C(CC1)=O)[C@@H](CCN1C[C@H](C2(CC2)CC1)O)CO | C22H31Cl2N3O3
